US06316494B1
(+,−) cis [4-(7-Hydroxy-3-phenyl-chroman-4-yl)-phenoxy]-acetic acid methyl ester
(+,−) cis [4-(7-Benzyloxy-3-phenyl-chroman-4-yl)-phenoxy]-acetic acid methyl ester(100 mg, 0.21 mmol) was dissolved in a solvent mixture of tetrahydrofuran-methanol-formic acid (8+1+1, 10 ml). The solution was added to a 5% Palladium on carbon catalyst (20 mg), and hydrogenated (1 atm.) overnight. The reaction mixture was filtered and evaporated to give a dark oil, which was dissolved and evaporated from EtOH (×3), triturated with toluene, and recrystallised from toluene.

reactant | (+,−) cis [4-(7-Benzyloxy-3-phenyl-chroman-4-yl)-phenoxy]-acetic acid methyl ester | 0.21 mmol, 100 mg | COC(COC1=CC=C(C=C1)[C@@H]1[C@@H](COC2=CC(=CC=C12)OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C31H28O5
solvent | tetrahydrofuran-methanol formic acid | 10 ml | O1C(CCC1)CO.C(=O)O
catalyst | Palladium on carbon | 20 mg | [Pd] | Pd
product | (+,−) cis [4-(7-Hydroxy-3-phenyl-chroman-4-yl)-phenoxy]-acetic acid methyl ester | COC(COC1=CC=C(C=C1)[C@@H]1[C@@H](COC2=CC(=CC=C12)O)C1=CC=CC=C1)=O | C24H22O5
